US05604253
N-(p-Bromobenzyl)-N-(4-methoxyphenyl)hydrazine hydrochloride
A mixture of 4-methoxyphenylhydrazine hydrochloride (459 g, 2.63 mol), p-bromobenzyl bromide (715 g, 2.86 mol) and milled potassium carbonate (771 g, 5.58 mol) was suspended in 2 L DMF at 0° C. with overhead stirring. The ice bath was removed and the mixture was stirred for 4 h, then diluted with 15 L of ice water. The mixture was stirred vigourously for 1 h, then the aqueous layer was decanted from the gummy solid. The solid was washed with 2×4 L of water, then was dissolved in 2.5 L toluene and dried over Na2SO4. The mixture was filtered, and the filtrate was cooled in an ice bath and treated with a stream of HCl gas for 1 h with vigourous stirring. The precipitate was filtered and-washed with 3×0.5 L of cold toluene and dried under a stream of nitrogen to give 682 g of the title compound.

reactant | 4-methoxyphenylhydrazine hydrochloride | 2.63 mol, 459 g | Cl.COC1=CC=C(C=C1)NN
reactant | p-bromobenzyl bromide | 2.86 mol, 715 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | potassium carbonate | 5.58 mol, 771 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 L | CN(C)C=O | C3H7NO
product | N-(p-Bromobenzyl)-N-(4-methoxyphenyl)hydrazine hydrochloride | 682 g | Cl.BrC1=CC=C(CN(N)C2=CC=C(C=C2)OC)C=C1 | InChI=1S/C14H15BrN2O.ClH/c1-18-14-8-6-13(7-9-14)17(16)10-11-2-4-12(15)5-3-11;/h2-9H,10,16H2,1H3;1H
